### PR TITLE
[Merged by Bors] - refactor(Data/Nat/Choose): Merge Basic.lean and Mul.lean

### PR DESCRIPTION
**Pull request by felixpernegger**
Previously, Mul.lean contained two very basic identities about polynomial coefficients and was its own file due to the use of ```ring```.
I replaced the usage of ```ring``` via some rewrites (not too bad), making it possible to merge Mul.lean into Basic.lean (which is appropriate content-wise).

Sidenote: The list of authors is now over 100 characters long. I did not find another file where this is the case, so I don''t know what is the standard format in this case.

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Basic.lean [hunk 1]
```diff
@@ -228,6 +228,38 @@ theorem choose_mul_succ_eq (n k : ℕ) : n.choose k * (n + 1) = (n + 1).choose k
...
+    _ = (m * (p + 1) + p)! * ((p + 1) * (m + 1)) := by
+      rw [Nat.mul_comm, Nat.mul_comm _ (m + 1), Nat.add_mul, Nat.one_mul, Nat.add_assoc]
+    _ = ((m * (p + 1) + p).choose p * (m * (p + 1))! * (p)!) * ((p + 1) * (m + 1)) := by
+      rw [add_choose_mul_factorial_mul_factorial]
+    _ = (m * (p + 1) + p).choose p * (m * (p + 1))! * (((p + 1) * (p)!) * (m + 1)) := by
+      rw [Nat.mul_assoc, ← Nat.mul_assoc p !, Nat.mul_comm p !]
+    _ = (m * (p + 1) + p).choose p * (m * (p + 1))! * ((p + 1)! * (m + 1)) := by rw [factorial_succ]
+    _ = (m + 1) * (m * (p + 1) + p).choose p * ((m * (p + 1))! * (p + 1)!) := by
+      rw [Nat.mul_comm (m + 1), Nat.mul_assoc _ (m + 1), Nat.mul_comm (m + 1),
+        Nat.mul_assoc _ (m * (p + 1)) !, Nat.mul_assoc _ (p + 1) !]
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Choose/Basic.lean]:
```suggestion
  calc
    (m * (p + 1) + (p + 1)).choose (p + 1) * ((m * (p + 1))! * (p + 1)!)
      = (m * (p + 1) + (p + 1)).choose (p + 1) * (m * (p + 1))! * (p + 1)! := by lia
    _ = (m * (p + 1) + (p + 1))! := by rw [add_choose_mul_factorial_mul_factorial]
    _ = ((m * (p + 1) + p) + 1)! := by lia
    _ = ((m * (p + 1) + p) + 1) * (m * (p + 1) + p)! := by rw [factorial_succ]
    _ = (m * (p + 1) + p)! * ((p + 1) * (m + 1)) := by lia
    _ = ((m * (p + 1) + p).choose p * (m * (p + 1))! * (p)!) * ((p + 1) * (m + 1)) := by
      rw [add_choose_mul_factorial_mul_factorial]
    _ = (m * (p + 1) + p).choose p * (m * (p + 1))! * (((p + 1) * (p)!) * (m + 1)) := by lia
    _ = (m * (p + 1) + p).choose p * (m * (p + 1))! * ((p + 1)! * (m + 1)) := by rw [factorial_succ]
    _ = (m + 1) * (m * (p + 1) + p).choose p * ((m * (p + 1))! * (p + 1)!) := by lia
```
Looks like `lia` can do all of them.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors r+

File: Mathlib/Data/Nat/Choose/Basic.lean (hunk 1 above)
Comment (felixpernegger) [reply Mathlib/Data/Nat/Choose/Basic.lean]: ah great, thanks!

**Comment by mattrobball** [comment]
bors merge
